US05869485
0.4 g of sodium is dissolved in 70 ml of ethanol and subsequently first 1.24 g of malononitrile and then 4.0 g of 2'-(3-ethoxyphenylamino)acetophenone are added at RT and the mixture is stirred at 50° C. for 2 h. The mixture is then cooled and concentrated in an RE. The residue is partitioned between water and methylene chloride and the aqueous phase is extracted twice with methylene chloride. The combined organic phases are dried over Na2SO4 and concentrated, 4-phenyl-1-(3-ethoxyphenyl)-2-amino-3-cyanopyrrole being obtained. The oily product is employed in the next stage without further purification.

reactant | sodium | 0.4 g | [Na] | Na
reactant | malononitrile | 1.24 g | C(CC#N)#N | C3H2N2
reactant | 2'-(3-ethoxyphenylamino)acetophenone | 4.0 g | C(C)OC=1C=C(C=CC1)NC1=C(C=CC=C1)C(C)=O | C16H17NO2
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 4-phenyl-1-(3-ethoxyphenyl)-2-amino-3-cyanopyrrole | C1(=CC=CC=C1)C=1C(=C(N(C1)C1=CC(=CC=C1)OCC)N)C#N | C19H17N3O
